2125-02-03 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC placed
   - IVF bolused for 4 liters on arrival then 300 mL/hour to goal UOP 300
   cc/hour
   - CT head performed given ? trauma, AMS
   - Code Purple called for agitation regarding foley - > given Valium 10
   mg IV x 1
   - Oxybutynin started for ? bladder spasm, UA checked to r/o UTI
   - Received additional 1L NS bolus at ~5AM when UOP dropped to < 300
   cc/hour
   - CK's continue to trend up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-2**] 03:00 PM
   Morphine Sulfate - [**2125-2-2**] 04:00 PM
   Diazepam (Valium) - [**2125-2-3**] 02:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-3**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 111 (110 - 145) bpm
   BP: 143/87(100) {105/60(71) - 190/106(117)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,284 mL
                                                                  2,640 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  5,984 mL
                                                                  2,640 mL
   Blood products:
   Total out:
                                                                  5,470 mL
                                                                  2,585 mL
   Urine:
                                                                  5,470 mL
                                                                  2,585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    814 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   12.6 g/dL
   109 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   4 mg/dL
   100 mEq/L
   139 mEq/L
   35.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
   WBC
   6.1
   Hct
   35.8
   Plt
   170
   Cr
   0.7
   0.6
   0.7
   Glucose
   97
   124
   109
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8257**]//, ALT / AST:67/366, Alk Phos / T Bili:74/0.4, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:[**2080**] IU/L, Ca++:8.5 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   The patient is a 56 yo man with h/o EtOH abuse, possible HepB/C, and
   previous history of L3 fracture, who presented with back pain, alcohol
   intoxication, and elevated creatinine kinases.
   .
   # Rhabdomyolysis: Patient has elevated CK, ua with blood but no RBCs,
   and elevated LFTs. Has h/o drinking and confusion.  No clear history of
   trauma but has stated that he jumped out of the window.  Has new L1/T12
   fracutures.
   - IV access EJ and PICC
   - will obtain trauma surgery consult
   - will obtain a NCHCT
   - Aggressive IVF, target UOP [**12-8**] ml/kg per hour
   - Will trend CKs, frequent lytes, lfts, uric acid
   - serum tox is positive for alcohol and utox was negative on admission
   - will check TSH (last in [**12-15**] was 0.4) and fT4
   - ? check cryoblobulin
   .
   # EtOH Abuse: The patient has a significant history of EtOH abuse, with
   a recent drinking binge on the day prior to admission.  Alcohol level
   was 86 on [**1-31**] evening.  He has a history of withrawl seizures per
   patient.
   - CIWA scale for possible withdrawal, currently written for diazepam
   10-20 mg oral for q2h and ativan
   - SW C/S for substance abuse
   - Thiamine/Folate supplementation
   .
   # Back pain:  Has T12 and L1 small fractures on prelim MRI read.  CTA
   chest negative for PE/aortic dissection.  ? recent L3 fracture.
   - Continue Morphine q4h prn
   - will talk to trauma
   .
   # Elevated transaminases: The patient had elevated AST and ALT on
   admission. He reports binge drinking the night prior to admission as
   well as questionable history of HBV/HCV. New echogenic appearance of
   the liver consistent with fatty changes and suggestive of worsening
   liver disease.
   - received Ceftriaxone yesterday morning for possible SBP, however
   given no ascites, fevers, evidence SBP, no need to continue
   - Continue to trend AST/ALT.
   - need liver follow up as out patient, however compliance will be an
   issue
   .
   # Leukocytosis: The patient had a leukocytosis on admission, which
   resolved with IV fluids.  ? response to
   rhabdo/dehydration/esophagitis.  Afebrile and CXR/UA not suspicious for
   infection.
   - F/U Blood Cx
   .
   #. Chest Burning: CTA and history consistent with esophagitis on CT.
   Has had negative CE yesterday morning (chest burning going on for
   approx one week per patient).
   - GI cocktail for sx relief
   - PPI for PPX
   - GI notified by floor team and may see patient today for possible
   scope
   .
   # Elevated lactate: The patient had a lactate, which was elevated to
   3.9 in the ED. This resolved with IVFs. There was a concern for
   thiamine deficiency, given the patient's history of alcoholism.
   - Continue thiamine supplements
   - F/U Thiamine level.
   .
   #. COPD: Patient has significant smoking history and reports h/o COPD
   for which he takes inhalers at home.  Patient desated to high 80s off
   of NC oxygen while sleeping.  CXR and PE-CTA without acute pathology to
   explain.
   - Nebs around the clock
   - Follow O2 sats
   .
   # Respiratory alkolosis: In the setting of transient agitation and
   hyperventillation.
   .
   # FEN: Regular low Na diet. Replete lytes prn.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: EJ, PICC to be placed today
   .
   # Code: Full code
   .
   # Disp: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-2-2**] 12:00 PM
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-02-03 09:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 y/o m with h/o EtOH abuse and w/d was found intoxicated c/o LBP.
   EtOH level 110 initially. MRI spine showed comp fx of T12 and L1, no
   cord compromise. Went to floor briefly but tx to ICU for inc withdrawl
   and CK rising from 12,000 to 52,000 to 58,000 today. Has recieved 60 mg
   of po valium and 4 mg IV ativan in last 24h, currently drowsy with
   slight tachy and htn. Getting IV valium per CIWA, PICC placed for
   aggressive hydration to keep uop 70cc/h at least. HD stable.
   24 Hour Events:
   PICC placed, recieved bolus with increased uop. CT head neg. Agitated
   for foley, got valium. U/A checked. CK went up to 57,220 up from
   55,000. Will consult spine re fx. Since MN gotten 40 mg valium.
 PICC LINE - START [**2125-2-2**] 02:09 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-2**] 03:00 PM
   Morphine Sulfate - [**2125-2-2**] 04:00 PM
   Diazepam (Valium) - [**2125-2-3**] 07:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-3**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 126 (110 - 145) bpm
   BP: 133/68(84) {105/60(71) - 190/106(117)} mmHg
   RR: 20 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,284 mL
                                                                  3,168 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  5,984 mL
                                                                  3,168 mL
   Blood products:
   Total out:
                                                                  5,470 mL
                                                                  3,105 mL
   Urine:
                                                                  5,470 mL
                                                                  3,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    814 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely, no rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, agitated
   Labs / Radiology
   12.6 g/dL
   170 K/uL
   109 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   4 mg/dL
   100 mEq/L
   139 mEq/L
   35.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
   WBC
   6.1
   Hct
   35.8
   Plt
   170
   Cr
   0.7
   0.6
   0.7
   Glucose
   97
   124
   109
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8257**]//, ALT / AST:67/366, Alk Phos / T Bili:74/0.4, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:[**2080**] IU/L, Ca++:8.5 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   56 y/o m with h/o EtOH abuse here with rhabdomyolysis, vertebral
   compression fx, and EtOH w/d, with worsening agitation today.
   1. Rhabdomyolysis: CK still trending up, suspect [**1-8**] trauma
   -spine consult for T12 and L1 fx
   -cont. 300/h IVF to keep uop 70/h at least
   2. EtOH abuse:
   -Valium 20mg IV for RAS 0-+1
   -goal RAS 0 to -1
   -check QT, haldol 5 mg IV X1
   -thiamine/folate
   3. Transaminitis: Suspect from muscle injury
   -f/u with liver
   4. esophagitis: Pain improved, cont. PPI and magic mouthwash
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2125-2-2**] 12:00 PM
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-02-04 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CKs decreased to [**Numeric Identifier 8265**] from peak last evening of [**Numeric Identifier 8266**]
   - Received valium 330 mg and haldol 20 mg yesterday and valium 60 mg
   and haldol 10 mg since midnight, QTc prolonged to 450, he was started
   on clonidine 0.1 mg tid
   - patient had two code purple episodes and was transiently placed on 4
   point leather restraints
   - Neurosurgery recoommends CT scan of thoracic and lumbar to better
   evaluate the fractures, he may need TLSO brace after the scan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-2-4**] 12:00 AM
   Diazepam (Valium) - [**2125-2-4**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-4**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 139 (117 - 139) bpm
   BP: 177/102(122) {132/38(74) - 183/118(212)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,278 mL
                                                                  2,445 mL
   PO:
             TF:
   IVF:
                                                                  8,278 mL
                                                                  2,445 mL
   Blood products:
   Total out:
                                                                  8,325 mL
                                                                  2,770 mL
   Urine:
                                                                  8,325 mL
                                                                  2,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -47 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   12.7 g/dL
   96 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   4 mg/dL
   101 mEq/L
   137 mEq/L
   34.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
                             [**2125-2-3**]  04:23 PM
                             [**2125-2-4**]  04:08 AM
   WBC
   6.1
   6.0
   Hct
   35.8
   34.1
   Plt
   170
   197
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   Glucose
   97
   124
   109
   117
   96
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8265**]//, ALT / AST:91/463, Alk Phos / T Bili:72/0.6, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:1888 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   The patient is a 56 yo man with h/o EtOH abuse, possible HepB/C, and
   previous history of L3 fracture, who presented with back pain, alcohol
   intoxication, and elevated creatinine kinases.
   .
   # Rhabdomyolysis: Most likely due to trauma as has stated that he might
   have jumped out of the window on admission to ED.  Has new L1/T12
   fracutures.  Non contrast CT without acute abnormalities.  CKs still
   trending up.
   - appreciate spine surgery consult
   - Aggressive IVF, target UOP [**12-8**] ml/kg per hour
   - Will trend CKs, frequent lytes
   - serum tox is positive for alcohol and utox was negative on admission
   .
   # EtOH Abuse: The patient has a significant history of EtOH abuse, with
   a recent drinking binge on the day prior to admission.  Alcohol level
   was 86 on [**1-31**] evening.  He has a history of withrawl seizures per
   patient.
   - patient is getting more frequent diazepam
   - SW C/S for substance abuse
   - Thiamine/Folate supplementation
   .
   # Back pain:  Has T12 and L1 small fractures on prelim MRI read.  CTA
   chest negative for PE/aortic dissection.  ? recent L3 fracture.
   - Continue Morphine q4h prn
   - appreciate spine surgery recs
   .
   # Elevated transaminases: The patient had elevated AST and ALT on
   admission. He reports binge drinking the night prior to admission as
   well as questionable history of HBV/HCV. New echogenic appearance of
   the liver consistent with fatty changes and suggestive of worsening
   liver disease.   Received Ceftriaxone on [**2-1**] morning for possible SBP,
   however given no ascites, fevers, evidence SBP, no need to continue
   - need liver follow up as out patient, however compliance will be an
   issue
   .
   # Leukocytosis: The patient had a leukocytosis on admission, which
   resolved with IV fluids.  ? response to
   rhabdo/dehydration/esophagitis.  Afebrile and CXR/UA not suspicious for
   infection.
   - F/U Blood Cx
   .
   #. Chest Burning: CTA and history consistent with esophagitis on CT.
   Has had negative CE yesterday morning (chest burning going on for
   approx one week per patient).
   - GI cocktail for sx relief
   - PPI for PPX
   - GI notified by floor team and may see patient today for possible
   scope
   .
   # Elevated lactate: The patient had a lactate, which was elevated to
   3.9 in the ED. This resolved with IVFs. There was a concern for
   thiamine deficiency, given the patient's history of alcoholism.
   - Continue thiamine supplements
   - F/U Thiamine level.
   .
   #. COPD: Patient has significant smoking history and reports h/o COPD
   for which he takes inhalers at home.  Patient desated to high 80s off
   of NC oxygen while sleeping.  CXR and PE-CTA without acute pathology to
   explain.
   - Nebs around the clock
   - Follow O2 sats
   .
   # FEN: Regular low Na diet. Replete lytes prn.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: EJ, PICC to be placed today
   .
   # Code: Full code
   .
   # Disp: ICU for now, to be discharged to [**Hospital3 675**] Sunday or
   Monday
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-02-04 12:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 y/o m with h/o EtOH abuse and w/d was found intoxicated c/o LBP.
   EtOH level 110 initially. MRI spine showed comp fx of T12 and L1, no
   cord compromise. Went to floor briefly but tx to ICU for inc withdrawl
   and CK rising from 12,000 to 52,000. Currently recieving 40-60 mg IV
   valium prn. Had a code purple [**2-3**] after patient hit his nurse, now on
   standing haldol in 4 point restraints. PICC placed for aggressive
   hydration to keep uop 70cc/h at least. HD stable.
   24 Hour Events:
   Had 2 code purple's yesterday for agitation combative behavior.
   Received 330 mg IV valium and 30 mg IV haldol last 24 hours. Now has
   sitter. CK finally trending down. Making good uop. Spine rec just o/p
   f/u, no need for brace.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-2-4**] 08:00 AM
   Diazepam (Valium) - [**2125-2-4**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-4**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 124 (116 - 139) bpm
   BP: 154/91(106) {132/38(74) - 183/118(212)} mmHg
   RR: 18 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,278 mL
                                                                  2,987 mL
   PO:
             TF:
   IVF:
                                                                  8,278 mL
                                                                  2,987 mL
   Blood products:
   Total out:
                                                                  8,325 mL
                                                                  4,060 mL
   Urine:
                                                                  8,325 mL
                                                                  4,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -47 mL
                                                                 -1,073 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   197 K/uL
   96 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   4 mg/dL
   101 mEq/L
   137 mEq/L
   34.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
                             [**2125-2-3**]  04:23 PM
                             [**2125-2-4**]  04:08 AM
   WBC
   6.1
   6.0
   Hct
   35.8
   34.1
   Plt
   170
   197
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   Glucose
   97
   124
   109
   117
   96
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8265**]//, ALT / AST:91/463, Alk Phos / T Bili:72/0.6, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:1888 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   56 y/o m with h/o EtOH abuse and w/d was found intoxicated c/o LBP.
   EtOH level 110 initially. MRI spine showed comp fx of T12 and L1, no
   cord compromise. Went to floor briefly but tx to ICU for inc withdrawl
   and CK rising from 12,000 to 52,000. Currently recieving 40-60 mg IV
   valium prn. Had a code purple [**2-3**] after patient hit his nurse, now on
   standing haldol in 4 point restraints. PICC placed for aggressive
   hydration to keep uop 70cc/h at least. HD stable.
   1. Rhabdo: CK now decreasing
   -[**Month (only) 38**] IVF to 200/h
   -cont. trend CKs
   -f/u spine recs
   2. EtOH w/d:
   -start valium 40 mg po qid
   -cont. IV valium per CIWA
   -cont. sitter
   -cont. haldol 10 mg IV tid, follow QTc
   -added clonidine 0.1 mg tid
   3. T12 and L1 comp fx:
   -f/u spine recs
   -morphine prn for pain
   4. FEN: reg diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2125-02-05 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Decreased IVF from 300 to 200/hr
   - Put on standing valium 40mg PO QID plus prn
   - N. surgery - no imaging, no brace
   - given prn morphine for pain
   - oxybutinin/pyridium discontinued
   - desatted to upper 80s, improved on NC.  decreased standing valium to
   30 qid.
   - got two extra haldol 10mg (qtc 430 before)
   - increased standing valium to 35 qid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2125-2-5**] 06:00 AM
   Haloperidol (Haldol) - [**2125-2-5**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-5**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 115 (96 - 132) bpm
   BP: 165/89(101) {119/68(84) - 178/103(115)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,950 mL
                                                                  1,731 mL
   PO:
                                                                    820 mL
             TF:
   IVF:
                                                                  6,130 mL
                                                                  1,731 mL
   Blood products:
   Total out:
                                                                  5,920 mL
                                                                    780 mL
   Urine:
                                                                  5,920 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,030 mL
                                                                    951 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   12.4 g/dL
   89 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   34.4 %
   4.3 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
                             [**2125-2-3**]  04:23 PM
                             [**2125-2-4**]  04:08 AM
                             [**2125-2-5**]  03:50 AM
   WBC
   6.1
   6.0
   4.3
   Hct
   35.8
   34.1
   34.4
   Plt
   170
   197
   209
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   Glucose
   97
   124
   109
   117
   96
   89
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8275**]//, ALT / AST:91/463, Alk Phos / T Bili:72/0.6, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:1888 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: CK [**Numeric Identifier 8275**]
   Assessment and Plan
   The patient is a 56 yo man with h/o EtOH abuse, possible HepB/C, and
   previous history of L3 fracture, who presented with back pain, alcohol
   intoxication, and elevated creatinine kinases.
   .
   # Rhabdomyolysis: Most likely due to trauma as has stated that he might
   have jumped out of the window on admission to ED.  Non contrast CT
   without acute abnormalities.  CKs peaked on [**2-3**]^ PM.
   - Aggressive IVF, target UOP [**12-8**] ml/kg per hour
   - Will trend CKs, frequent lytes
   - serum tox is positive for alcohol and utox was negative on admission
   .
   # EtOH Abuse: The patient has a significant history of EtOH abuse, with
   a recent drinking binge on the day prior to admission.  Alcohol level
   was 86 on [**1-31**] evening.  He has a history of withrawl seizures per
   patient.
   - patient is getting more frequent diazepam
   - he will also get standing haldol for agitation secondary to
   behavioural issues
   - SW C/S for substance abuse once patient is able to cooperate
   - Thiamine/Folate supplementation
   .
   # Back pain:  Has T12 and L1 small fractures on prelim MRI read.  CTA
   chest negative for PE/aortic dissection.   Neurosurgery thinks that the
   MRI L spine abnormalities are probable DJD or older fracuture.  No need
   for brace.
   - Continue Morphine q4h prn
   .
   # Elevated transaminases: The patient had elevated AST and ALT on
   admission. He reports binge drinking the night prior to admission as
   well as questionable history of HBV/HCV. New echogenic appearance of
   the liver consistent with fatty changes and suggestive of worsening
   liver disease.   Received Ceftriaxone on [**2-1**] morning for possible SBP,
   however given no ascites, fevers, evidence SBP, no need to continue
   - need liver follow up as out patient, however compliance will be an
   issue
   .
   #. Chest Burning: CTA and history consistent with esophagitis on CT
   - GI cocktail for sx relief
   - PPI for PPX
   - GI notified by floor team however has not seen the patient yet, may
   need further workup once his agitation/withdrawl is under control
   .
   # Elevated lactate: The patient had a lactate, which was elevated to
   3.9 in the ED. This resolved with IVFs. There was a concern for
   thiamine deficiency, given the patient's history of alcoholism.
   - Continue thiamine supplements
   - F/U Thiamine level.
   .
   #. COPD: Patient has significant smoking history and reports h/o COPD
   for which he takes inhalers at home.  Patient desated to high 80s off
   of NC oxygen while sleeping.  CXR and PE-CTA without acute pathology to
   explain.
   - Nebs around the clock
   - Follow O2 sats
   .
   # FEN: Regular low Na diet. Replete lytes prn.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: PICC
   .
   # Code: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code.
   Disposition:

2125-02-05 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    56 y/o m with h/o EtOH abuse and w/d was found intoxicated c/o LBP.
   EtOH level 110 initially. MRI spine showed comp fx of T12 and L1, no
   cord compromise. Went to floor briefly but tx to ICU for inc withdrawl
   and CK rising from 12,000 to 52,000. Currently recieving 40-60 mg IV
   valium prn. Had a code purple [**2-3**] after patient hit his nurse, now on
   standing haldol in 4 point restraints. PICC placed for aggressive
   hydration to keep uop 70cc/h at least. HD stable.
   24 Hour Events:
   IVF decreased to 200/h. Decreased valium to 35 mg po qid with IV prn.
   desat to 88% when somnolent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-2-5**] 08:46 AM
   Diazepam (Valium) - [**2125-2-5**] 08:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-5**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 107 (96 - 132) bpm
   BP: 132/93(100) {119/68(84) - 172/103(116)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,950 mL
                                                                  2,260 mL
   PO:
                                                                    820 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  6,130 mL
                                                                  2,060 mL
   Blood products:
   Total out:
                                                                  5,920 mL
                                                                  1,340 mL
   Urine:
                                                                  5,920 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,030 mL
                                                                    920 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   209 K/uL
   89 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   34.4 %
   4.3 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
                             [**2125-2-3**]  04:23 PM
                             [**2125-2-4**]  04:08 AM
                             [**2125-2-5**]  03:50 AM
   WBC
   6.1
   6.0
   4.3
   Hct
   35.8
   34.1
   34.4
   Plt
   170
   197
   209
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   Glucose
   97
   124
   109
   117
   96
   89
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 8275**]//, ALT / AST:91/463, Alk Phos / T Bili:72/0.6, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:1888 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   56 y/o m with h/o EtOH abuse and w/d was found intoxicated c/o LBP.
   EtOH level 110 initially. MRI spine showed comp fx of T12 and L1, no
   cord compromise. Went to floor briefly but tx to ICU for inc withdrawl
   and CK rising from 12,000 to 52,000. Currently recieving 40-60 mg IV
   valium prn. Had a code purple [**2-3**] after patient hit his nurse, now on
   standing haldol in 4 point restraints. PICC placed for aggressive
   hydration to keep uop 70cc/h at least. HD stable.
   1. rhabdomyolysis: Now greatly improved, [**1-8**] trauma from fall
   -[**Month (only) 38**] IVF to 150/h
   -pos
   2. EtOH w/d
   change to 20 mg po valium prn q2h
   [**Month (only) 38**] haldol to 5mg IV tid
   restart home psyche meds
   3. back pain: comp fx
   -start liderm patch, prn morphine
   -calcitonin
   -restart neurontin
   4. anxiety:
   -restart on seroquel
   -restart lovox
   5. esophagitis: GI coctail, PPI
   6. COPD: No current flare
   advair/atrovent/albuterol
   7. FEN: Reg diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed her note
   as detailed above and agree with the assessment and plan with the
   following modifications/emphasis:
   56 year old alcoholic who presented with back pain and found to have
   minimal compression fractures, rhabdo, and ultimately alcohol
   withdrawal.  He is now improving both in terms of rhabdo and withdrawal
   and back pain is improved as well.
   On exam,  T37  P 104   BP 130/80  RR 22 Sat 94%
   Awake, alert with mild confusion/irritation
   Chest: CTA bilat
   Heart: S1 S2 reg
   Abd: soft NT ND
   Neuro: confused, moving all extremities. No clear focal neuro findings
   A:
   1)       Rhabdomyolysis
   2)       Compression fractures of the back
   3)       Alcohol Withdrawal
   Plan:
   - will begin to decrease IVFs as CPK much improved
   - begin to wean off high doses of benzos for alcohol withdrawal as his
   home psych medications are added as well
   - If level of agitation improves, will consider transfer back to the
   floor
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2125-2-5**] 06:19 PM ------

2125-02-06 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Valium changed to PRN due to concern for benzo intoxication in the AM
   - Decreased Haldol from 10 mg TID to 5 mg TID
   - IVF decreased to 150 mL/hour
   - started Lidoderm TD and inhaled calcitonin for low back pain
   secondary to compression fractures
   - Reconciled psych meds, and restarted Seroquel and Fluvoxamine
   - Required 2 PRN doses of Valium at 4 PM and 8 PM (40 mg total)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-2-5**] 04:00 PM
   Diazepam (Valium) - [**2125-2-5**] 08:20 PM
   Morphine Sulfate - [**2125-2-5**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-6**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 89 (86 - 130) bpm
   BP: 157/90(106) {107/69(79) - 177/135(139)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,056 mL
                                                                    664 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                  4,396 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    870 mL
   Urine:
                                                                  3,720 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,336 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   12.4 g/dL
   81 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   5 mg/dL
   104 mEq/L
   142 mEq/L
   34.4 %
   4.3 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
                             [**2125-2-3**]  04:23 PM
                             [**2125-2-4**]  04:08 AM
                             [**2125-2-5**]  03:50 AM
                             [**2125-2-6**]  03:47 AM
   WBC
   6.1
   6.0
   4.3
   Hct
   35.8
   34.1
   34.4
   Plt
   170
   197
   209
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   97
   124
   109
   117
   96
   89
   81
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:4713//, ALT / AST:91/463, Alk Phos / T Bili:72/0.6, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:1888 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 717**] is a 56 yo man with h/o EtOH abuse, HepB/C, and previous
   history of L3 fracture, who presented with back pain, alcohol
   intoxication, and rhabdomyolysis.
   .
   # Rhabdomyolysis: Most likely due to trauma as has stated that he might
   have jumped out of the window on admission to ED, but also consider
   alcohol-induced coma vs. seizure activity.  Non contrast CT without
   acute abnormalities.  CKs peaked at  on [**2-3**]^, now trending down.  Home
   medication list reviewed, without identification of likely inciting
   cause.
   - Aggressive IVF, target UOP [**12-8**] ml/kg per hour
   - Will trend CKs, frequent lytes
   - serum tox is positive for alcohol and utox was negative on admission
   .
   # EtOH Abuse: The patient has a significant history of EtOH abuse, with
   a recent drinking binge on the day prior to admission.  Alcohol level
   was 86 on [**1-31**] evening.  He has a history of withdrawal seizures per
   patient.
   - change diazepam to PRN
   - decrease standing haldol dose
   - Clonidine for withdrawal symptoms
   - SW C/S for substance abuse once patient is able to cooperate
   - MVI/ thiamine/Folate supplementation
   .
   # Back pain:  Has T12 and L1 small fractures on prelim MRI read,
   possibly associated with presumed traumatic injury.  Neurosurgery was
   consulted and, based upon likelihood that these MRI L spine
   abnormalities are probable DJD or older fracuture, recommended no
   further imaging and no indication for TLSO.
   - minimize narcotics as able
   - Lidoderm to low back
   - Inhaled calcitonin as off-label use for pain secondary to vertebral
   compression fractures
   .
   # Elevated transaminases: The patient had elevated AST and ALT on
   admission with AST>ALT.  AST may be elevated secondary to muscle
   breakdown in the setting of rhabdomyolysis. New echogenic appearance of
   the liver consistent with fatty changes and suggestive of worsening
   liver disease.   Serologies positive for hepatitis B & C
   co-infection.
   - Schedule for outpatient Liver f/u
   - Trend LFT
   .
   #. Chest Burning:  CTA chest negative for PE.  Suspect esophagitis.
   - GI cocktail for sx relief
   - Continue home Prilosec
   .
   #. COPD: Patient has significant smoking history and reports h/o COPD
   for which he takes inhalers at home.
   - Continue Advair, Ipratropium, Albuterol PRN
   - Follow O2 sats
   - Nicotine TD PRN
   # Psychiatric illness:  Continue home regimen of Seroquel, Fluvoxamine
   .
   # FEN: Regular low Na diet. Replete lytes prn.
   .
   # PPx: Heparin SQ, PPI
   .
   # Access: Right arm PICC, placed [**2-2**].
   .
   # Code: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-02-06 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Restarted on seroquel and fluvoxamine. Got 130mg valium yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-2-5**] 04:00 PM
   Diazepam (Valium) - [**2125-2-5**] 08:20 PM
   Morphine Sulfate - [**2125-2-5**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-6**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 113 (86 - 130) bpm
   BP: 174/100(119) {107/69(79) - 177/135(139)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,051 mL
                                                                  1,591 mL
   PO:
                                                                    660 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  4,391 mL
                                                                  1,541 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    990 mL
   Urine:
                                                                  3,720 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,331 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   209 K/uL
   81 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   5 mg/dL
   104 mEq/L
   142 mEq/L
   34.4 %
   4.3 K/uL
        [image002.jpg]
                             [**2125-2-2**]  11:37 AM
                             [**2125-2-2**]  06:45 PM
                             [**2125-2-3**]  01:43 AM
                             [**2125-2-3**]  04:23 PM
                             [**2125-2-4**]  04:08 AM
                             [**2125-2-5**]  03:50 AM
                             [**2125-2-6**]  03:47 AM
   WBC
   6.1
   6.0
   4.3
   Hct
   35.8
   34.1
   34.4
   Plt
   170
   197
   209
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   97
   124
   109
   117
   96
   89
   81
   Other labs: PT / PTT / INR:12.7/27.6/1.1, CK / CKMB /
   Troponin-T:4713//, ALT / AST:91/463, Alk Phos / T Bili:72/0.6, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:1888 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Rhabdo. EtOH w/d. Vertebral compression fx. Anxiety.
   1. EtOH:
   --only gotten 3 prn doses last night
   -cont. haldol and clonidine standing
   -cont. thiamine, MVI
   2. Rhabdo: CK much improved
   -change D51/2 at 125/h today until taking adequate po
   3. Comp fx: No unstable fx, no need for brace per spine
   -cont. nasal calcitonin/prn morphine, lido patch
   4. COPD:
   Cont. inahlers
   5. Anxiety:
   Cont. o/p seroquel and fluvoxamine
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2125-2-2**] 02:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes